US05750550
A mixture of 3-methyl-2-pyridylhydrazine (1.0 g, 8.13 mmol), acetic acid (7.0 mL) and ethyl trifluoroacetoacetate (1.2 mL, 8.13 mmol) was heated at 60° C. for 9 hours. The reaction mixture was neutralized with NaHCO3 and then was extracted with EtOAc (3×). The EtOAc extracts were combined, dried over MgSO4, filtered and concentrated to afford crude product which was purified by column chromatography on silica gel to afford 200 mg of 1-(3-methyl-2-pyridyl)-3-trifluoromethyl-5-hydroxypyrazole.

reactant | 3-methyl-2-pyridylhydrazine | 8.13 mmol, 1.0 g | CC=1C(=NC=CC1)NN | C6H9N3
reactant | ethyl trifluoroacetoacetate | 8.13 mmol, 1.2 mL | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 7.0 mL | C(C)(=O)O | C2H4O2
product | 1-(3-methyl-2-pyridyl)-3-trifluoromethyl-5-hydroxypyrazole | 200 mg | CC=1C(=NC=CC1)N1N=C(C=C1O)C(F)(F)F | C10H8F3N3O
